US06645979B2
A solution of N-chlorosuccinimide (307 g, 2.3 mol) in DMA (1.2 L) was added to a stirred suspension of 7-(3-cyanophenyl)isoquinolinone (0.54 kg, 2.2 mol) in boiling DMA (3.9 L) over a period of 1 hour under N2. The mixture was heated at reflux overnight and cooled to room temperature. The solid was collected by filtration, washed with MeCN (1.0 L) and dried in vacuo at 50° C. to give 4-chloro-7-(3-cyanophenyl)isoquinolinone (0.5 kg, 1.78 mol, 81%) as an off white solid.

reactant | N-chlorosuccinimide | 2.3 mol, 307 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 7-(3-cyanophenyl)isoquinolinone | 2.2 mol, 0.54 kg | C(#N)C=1C=C(C=CC1)C1=CC=C2C=CNC(C2=C1)=O | C16H10N2O
solvent | DMA | 1.2 L | CC(=O)N(C)C | C4H9NO
solvent | DMA | 3.9 L | CC(=O)N(C)C | C4H9NO
product | 4-chloro-7-(3-cyanophenyl)isoquinolinone | 1.78 mol, 0.5 kg, 81% | ClC1=CNC(C2=CC(=CC=C12)C1=CC(=CC=C1)C#N)=O | C16H9ClN2O
